US08859555B2
To a solution of (trans)-N-(2-chloroethyl)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropanamine (750 mg, 2.21 mmol) in dry DMF (7.5 mL), (S)-tert-butyl pyrrolidin-3-ylcarbamate (864 mg g, 4.64 mmol) was added and stirred at RT for 48 h. After completion, the reaction mixture was poured into ice water (25 mL), extracted with EtOAc (2×20 mL). The combined extracts were washed with water (25 mL), brine (20 mL), dried over anhydrous Na2SO4, filtered and evaporated. The crude residue was purified by column chromatography (SiO2) using MeOH: CHCl3(4:96) to get tert-butyl (S)-1-(2-((trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropylamino)ethyl)pyrrolidin-3-ylcarbamate (400 mg, 37%) as a white solid.

reactant | (trans)-N-(2-chloroethyl)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropanamine | 2.21 mmol, 750 mg | ClCCN[C@H]1[C@@H](C1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(F)(F)F | C18H17ClF3N
reactant | (S)-tert-butyl pyrrolidin-3-ylcarbamate | 4.64 mmol, 864 mg | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
product | tert-butyl (S)-1-(2-((trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropylamino)ethyl)pyrrolidin-3-ylcarbamate | 400 mg, 37% | FC(C=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1[C@@H](C1)NCCN1C[C@H](CC1)NC(OC(C)(C)C)=O)(F)F | C27H34F3N3O2
